US06544985B2
7-Dimethylamino-4-(3-imidazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-dimethylamino-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester (Example M57) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (132 mg).

reactant | {5-dimethylamino-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C26H28F3N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-4-(3-imidazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2C=NC=C2)=O)C=C1C(F)(F)F)C | C21H18F3N5O
